US04737497
dl-1,2-Bis(4-morpholinomethyl-3,5-dioxopiperazin-1-yl)-propane
A mixture of dl-1,2-bis(3,5-dioxopiperazin-1-yl)-propane (26.8 g, 0.1 mole), morpholine (27 ml, 0.3 mole) and absolute ethanol (100 ml) was heated to reflux. To the mixture, 37% aqueous formaldehyde solution (27 ml) was added gradually and then the reaction mixture was refluxed for further 15 minutes. The cooled mixture was filtered and the filtrate was allowed to stand in the refrigerator. Then resulting white crystals were collected and washed with ethyl acetate to give the titled compound (39.6 g; yield 84.9%).

reactant | 1,2-bis(3,5-dioxopiperazin-1-yl)-propane | 0.1 mole, 26.8 g | O=C1CN(CC(N1)=O)CC(C)N1CC(NC(C1)=O)=O | C11H16N4O4
reactant | morpholine | 0.3 mole, 27 ml | N1CCOCC1 | C4H9NO
reactant | formaldehyde | 27 ml | C=O | CH2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | dl-1,2-Bis(4-morpholinomethyl-3,5-dioxopiperazin-1-yl)-propane | 39.6 g, yield 84.9% | CC(CN1CC(=O)N(C(=O)C1)CN2CCOCC2)N3CC(=O)N(C(=O)C3)CN4CCOCC4 | C21H34N6O6
